US04943585
While stirring thoroughly, 1.91 g of 80% strength sodium hydride is introduced into a solution of 6.04 g of 4,5-dimethylimidazole in 80 ml of tetrahydrofuran. Upon completion of the exothermic reaction, the mixture is kept for 3 hours at 60° C., ad then cooled. A solution of 17.85 g of p-(3-chlorophenoxy)-benzyl bromide in 20 ml of tetrahydrofuran is then added. The reaction batch is stirred for 12 hours at 20° C., then poured into about 750 ml of ice water and extracted by shaking with methyl tertbutyl ether. The extract is washed twice with 5% strength aqueous sodium hydroxide solution and twice with water. After the extract has been dried over sodium sulfate, the solvent is removed under reduced pressure and the residue is chromatographed over silica gel 60 with acetone/ethyl acetate (2:1). There is obtained 12.1 g (65%) of N-[p-(3-chlorophenoxy)-benzyl]-4,5-dimethylimidazole as a resin-like liquid which slowly crystallizes on standing.

reactant | sodium hydride | [H-].[Na+]
reactant | 4,5-dimethylimidazole | 6.04 g | CC=1N=CNC1C | C5H8N2
reactant | p-(3-chlorophenoxy)-benzyl bromide | 17.85 g | ClC=1C=C(OC2=CC=C(CBr)C=C2)C=CC1 | C13H10BrClO
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-[p-(3-chlorophenoxy)-benzyl]-4,5-dimethylimidazole | 12.1 g, 65% | ClC=1C=C(OC2=CC=C(CN3C=NC(=C3C)C)C=C2)C=CC1 | C18H17ClN2O
